### PR TITLE
[Merged by Bors] - feat: add ConjRootClass

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
Co-authored-by: FR <zhao.yu-yang@foxmail.com>

---

From #6718

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by alreadydone — APPROVED** [review]
LGTM

File: Mathlib/FieldTheory/Minpoly/ConjRootClass.lean [hunk 1]
```diff
@@ -0,0 +1,190 @@
...
+  Quotient.decidableEq (d := IsConjRoot.decidable)
+
+/-- `c.carrier` is the set of conjugates represented by `c`. -/
+def carrier (c : ConjRootClass K L) : Set L :=
+  mk K ⁻¹' {c}
+
+theorem mem_carrier {x : L} {c : ConjRootClass K L} : x ∈ c.carrier ↔ mk K x = c :=
+  Iff.rfl
+
+theorem carrier_zero : (0 : ConjRootClass K L).carrier = {0} := by
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/Minpoly/ConjRootClass.lean:64]: `mem_carrier` is used a lot in `simp` calls below, so it can usefully be made `@[simp]` I think. For `carrier_zero` I don't see any uses here, but the right hand side is certainly simpler than the left.
```suggestion
@[simp]
theorem mem_carrier {x : L} {c : ConjRootClass K L} : x ∈ c.carrier ↔ mk K x = c :=
  Iff.rfl

@[simp]
theorem carrier_zero : (0 : ConjRootClass K L).carrier = {0} := by
```

File: Mathlib/FieldTheory/Minpoly/ConjRootClass.lean [hunk 2]
```diff
@@ -0,0 +1,190 @@
...
+  ext; rw [mem_carrier, mk_eq_zero_iff, Set.mem_singleton_iff]
+
+instance : Neg (ConjRootClass K L) where
+  neg := Quotient.map (fun x ↦ -x) (fun _ _ ↦ IsConjRoot.neg)
+
+theorem mk_neg (x : L) : mk K (-x) = -mk K x :=
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/Minpoly/ConjRootClass.lean:70]: This result seems to be used mostly from right-to-left in the `rw`s below (although we could refactor the proofs to use it left-to-right instead). Do you have a particular reason for writing it like this?

File: Mathlib/FieldTheory/Minpoly/ConjRootClass.lean [hunk 3]
```diff
@@ -0,0 +1,190 @@
...
+  rfl
+
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/Minpoly/ConjRootClass.lean:72]: Could you add a simp lemma along the lines of `carrier_neg : carrier (-c) = - carrier c`?

File: Mathlib/FieldTheory/Minpoly/ConjRootClass.lean [hunk 4]
```diff
@@ -0,0 +1,190 @@
...
+theorem mk_eq_zero_iff (x : L) : mk K x = 0 ↔ x = 0 := by
+  rw [eq_comm (b := 0), ← mk_zero, mk_eq_mk, isConjRoot_zero_iff_eq_zero]
+
+instance [Normal K L] [DecidableEq L] [Fintype (L ≃ₐ[K] L)] : DecidableEq (ConjRootClass K L) :=
+  Quotient.decidableEq (d := IsConjRoot.decidable)
+
+/-- `c.carrier` is the set of conjugates represented by `c`. -/
+def carrier (c : ConjRootClass K L) : Set L :=
+  mk K ⁻¹' {c}
+
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/Minpoly/ConjRootClass.lean:60]: Could you add a result stating that `carrier` is injective?

File: Mathlib/FieldTheory/Minpoly/ConjRootClass.lean [hunk 5]
```diff
@@ -0,0 +1,190 @@
...
+theorem minpoly.map_eq_prod [Normal K L] (c : ConjRootClass K L) [Fintype c.carrier] :
+    c.minpoly.map (algebraMap K L) = ∏ x in c.carrier.toFinset, (X - C x) := by
+  classical
+  simp_rw [← rootSet_minpoly_eq_carrier, Finset.prod_eq_multiset_prod, rootSet_def,
+    Finset.toFinset_coe, Multiset.toFinset_val]
+  rw [Multiset.dedup_eq_self.mpr (nodup_roots c.separable_minpoly.map),
+    prod_multiset_X_sub_C_of_monic_of_roots_card_eq (c.monic_minpoly.map _)]
+  rw [← splits_iff_card_roots, splits_id_iff_splits]
+  exact c.splits_minpoly
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/Minpoly/ConjRootClass.lean:186]: This proof is rather annoying, but that matches my experience with working with polynomials that split, so I don't think there is an easy solution here. :(

File: Mathlib/FieldTheory/Minpoly/ConjRootClass.lean (hunk 4 above)
Comment (LessnessRandomness) [reply Mathlib/FieldTheory/Minpoly/ConjRootClass.lean:60]: Done. See `carrier_inj` (line 69)

File: Mathlib/FieldTheory/Minpoly/ConjRootClass.lean (hunk 3 above)
Comment (LessnessRandomness) [reply Mathlib/FieldTheory/Minpoly/ConjRootClass.lean:79]: Done. See `carrier_neg` (line 84).

File: Mathlib/FieldTheory/Minpoly/ConjRootClass.lean (hunk 5 above)
Comment (LessnessRandomness) [reply Mathlib/FieldTheory/Minpoly/ConjRootClass.lean]: Skipped this one.

File: Mathlib/FieldTheory/Minpoly/ConjRootClass.lean (hunk 2 above)
Comment (LessnessRandomness) [reply Mathlib/FieldTheory/Minpoly/ConjRootClass.lean]: Changed direction of the `mk_neg` and fixed the uses of it to left-to-right.

**Comment by grunweg** [comment]
@LessnessRandomness Did you maybe forget to push your changes? I don't see a new commit.

**Comment by LessnessRandomness** [comment]
@grunweg My only commit is https://github.com/leanprover-community/mathlib4/pull/18693/commits/4001ad3be056146200e68667806ecf69430628a6

After that [Ruben-VandeVelde](https://github.com/Ruben-VandeVelde) did two commits - one to fix the a CI problem and another one with little fix.

**Review by Vierkantor — APPROVED** [review]
Sorry for the wait, I think this is nearly ready. Thanks! 🎉 

bors d+

**Comment by grunweg** [comment]
Hi @Ruben-VandeVelde , coming here for PR triage, I see that your PR has been delegated without recent activity. I think it would be nice for it to hit mathlib --- after all, this is a significant step towards the Lindemann-Weierstrass theorem. Would you like some help with that?

**Comment by Ruben-VandeVelde** [comment]
Thanks, and sorry for missing the notifications here.

bors merge
